US05663200
50d) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2-methoxylphenyl)methyl]hexanoic acid
A solution of 474 mg of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 18 ml of dimethoxyethane and 9.07 ml of water is treated dropwise, at RT, with 4.45 ml of a 1M lithium hydroxide solution. After that, the reaction mixture is stirred at RT for 3 h and diluted with ethyl acetate and THF, and the whole is washed in a separating funnel until neutral with a mixture consisting of 54.78 ml of sat. ammonium chloride solution and 4.58 ml of 10% citric acid solution, followed by saline and water. The title compound, which is subjected to further processing without any further purification, is obtained after drying over sodium sulfate and removing the solvent. TLC Rf (hexane/ethyl acetate 2.5:1)=0.15.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 474 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C=CC=C1)OC | C25H31NO5
reactant | lithium hydroxide | 1M | [OH-].[Li+]
solvent | dimethoxyethane | 18 ml | C(OC)COC | C4H10O2
solvent | water | 9.07 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2-methoxylphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=CC=C1)OC)O)CC1=CC=CC=C1 | C25H33NO6
